US04866064
A mixture of 20.1 g of 2-amino-5-heptylthio-1,3,4-thiadiazole, 20.0 g of ethyl 3-ethoxypropenoate and 23 g of polyphosphoric acid was heated to 130°~140° C. and stirred for 30 minutes. The residue obtained by the same procedure as in Preparation Example 13 was purified by silica gel column chromatography using an ethyl acetate/toluene mixture as an eluent. Thus 12.6 g of 2-heptylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained.

reactant | 2-amino-5-heptylthio-1,3,4-thiadiazole | 20.1 g | NC=1SC(=NN1)SCCCCCCC | C9H17N3S2
reactant | ethyl 3-ethoxypropenoate | 20.0 g | C(C)OC=CC(=O)OCC | C7H12O3
product | 2-heptylthio-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 12.6 g, Yield 51% | C(CCCCCC)SC1=NN2C(=NC=CC2=O)S1 | C12H17N3OS2
